US05320765
2,6-di-tert-butyl-4-methoxyphenol;
2,5-di-tertbutylhydroquinone; 2,5-di-tert-amylhydroquinone; 2,6-diphenyl-4-octadecyloxyphenol.

reactant | 2,5-di-tertbutylhydroquinone | C(C)(C)(C)C1=C(O)C=C(C(=C1)O)C(C)(C)C | C14H22O2
reactant | 2,5-di-tert-amylhydroquinone | C(C)(C)(CC)C1=C(O)C=C(C(=C1)O)C(C)(C)CC | C16H26O2
reactant | 2,6-diphenyl-4-octadecyloxyphenol | C1(=CC=CC=C1)C1=C(C(=CC(=C1)OCCCCCCCCCCCCCCCCCC)C1=CC=CC=C1)O | C36H50O2
product | 2,6-di-tert-butyl-4-methoxyphenol | C(C)(C)(C)C1=C(C(=CC(=C1)OC)C(C)(C)C)O | C15H24O2
